US07375227B2
257C. Pyridine-2-carboxylic acid (1-{2-[3-(2-methyl-quinolin-4-yl)-ureido]-ethyl}-pyrrolidin-3-yl)-amide
To a solution of 1-[2-(3-amino-pyrrolidin-1-yl)-ethyl]-3-(2-methyl-quinolin-4-yl)-urea (0.03 mmol) in DMF (0.3 mL) is added DIPEA (3 eq). The resulting solution is treated with a solution of pyridine-2-carboxylic acid (1.1 eq) in DMF (0.25 mL). A solution of TBTU (1.1 eq) in DMF (0.25 mL) is added. The reaction is stirred at 20 C for 45 min. The reaction mixture is evaporated to dryness. The residue is taken up in CH3CN/H2O/TFA (6:10:1; 1 mL) and is purified by preparative HPLC.

reactant | 1-[2-(3-amino-pyrrolidin-1-yl)-ethyl]-3-(2-methyl-quinolin-4-yl)-urea | 0.03 mmol | NC1CN(CC1)CCNC(=O)NC1=CC(=NC2=CC=CC=C12)C | C17H23N5O
reactant | DIPEA | 3 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | pyridine-2-carboxylic acid | 1.1 eq | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | TBTU | 1.1 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
product | Pyridine-2-carboxylic acid (1-{2-[3-(2-methyl-quinolin-4-yl)-ureido]-ethyl}-pyrrolidin-3-yl)-amide | CC1=NC2=CC=CC=C2C(=C1)NC(NCCN1CC(CC1)NC(=O)C1=NC=CC=C1)=O | C23H26N6O2
